US04739066
A mixture of tert-butyl 3(R)-amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate (2.05 g) and ethyl 6-(1-benzyloxycarbonyl-4-piperidyl)-2-methanesulfonyloxyhexanoate (1.5 g) is heated at 90° C. for 1 day. After cooling, ethyl acetate (300 ml) is added to the mixture, and the resulting solution is washed with 5% phosphoric acid solution (30 ml×2) and water (20 ml) successively. The organic layer is dried over anhydrous magnesium sulfate and evaporated in vacuo to yield an oily residue, which is purified by silicagel column chromatography (hexane:ethyl acetate=2:1) to give tert-butyl 3(R)-[5-(1-benzyloxycarbonyl-4-piperidyl)-1(R)-ethoxycarbonylpentyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate (0.7 g) as a colorless oil. From the subsequent fraction, tert-butyl 3(R)-[5-(1-benzyloxycarbonyl-4-piperidyl)-1(S)-ethoxycarbonylpentyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate (0.55 g) is obtained as a colorless oil.

reactant | tert-butyl 3(R)-amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 2.05 g | N[C@H]1CSC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2 | C15H20N2O3S
reactant | ethyl 6-(1-benzyloxycarbonyl-4-piperidyl)-2-methanesulfonyloxyhexanoate | 1.5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCC(C(=O)OCC)OS(=O)(=O)C | C22H33NO7S
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl 3(R)-[5-(1-benzyloxycarbonyl-4-piperidyl)-1(R)-ethoxycarbonylpentyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 0.7 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCC[C@H](C(=O)OCC)N[C@H]1CSC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2 | C36H49N3O7S
